US07214674B2
8-{1-[2-(7-Fluoro-2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4-methyl-4H-benzo[1,4]oxazin-3-one (E10)
The title compound was prepared from 4-methyl-8-(piperidin-4-ylmethyl)-4H-benzo[1,4]oxazin-3-one and 5-(2-bromoethoxy)-7-fluoro-2-methylquinoline in a similar manner to Example 1.

reactant | 4-methyl-8-(piperidin-4-ylmethyl)-4H-benzo[1,4]oxazin-3-one | CN1C(COC2=C1C=CC=C2CC2CCNCC2)=O | C15H20N2O2
reactant | 5-(2-bromoethoxy)-7-fluoro-2-methylquinoline | BrCCOC1=C2C=CC(=NC2=CC(=C1)F)C | C12H11BrFNO
product | 8-{1-[2-(7-Fluoro-2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4-methyl-4H-benzo[1,4]oxazin-3-one | FC1=CC(=C2C=CC(=NC2=C1)C)OCCN1CCC(CC1)CC1=CC=CC=2N(C(COC21)=O)C | C27H30FN3O3
